US04818819
To a solution containing 0.11 g of sodium in 30 ml of anhydrous tert.-butanol is added 0.45 g of guanidine hydrochloride. After stirring the mixture at room temperature for 15 minutes, 0.35 g of methyl 5-(4-tert.-butoxycarbonylphenyl)ethynyl-2-chloro-3-pyridinecarboxylate is added in one portion. The mixture is heated under reflux under nitrogen for 4 hours, cooled, diluted with ethanol, and the solvent removed under reduced pressure. The residue is dissolved in water and filtered to remove a small amount of insoluble material. The filtrate is acidified with a 3N hydrochloric acid solution and the precipitate that forms is collected by filtration, washed with water, and dried under reduced pressure to give 0.15 g (44%) of 2-amino-4-hydroxy-6-(4-tert.-butoxycarbonylphenylethynyl)pyrido[2,3-d]pyrimidine as a pale yellowish solid: m.p. >260° C.; NMR (DMSO-d6, 80 MHz) delta 1.55 (s, 9H), 7.71 (d, 2H, J=8.6 Hz), 7.96 (d, 2H, J= 8.6 Hz), 8.36 (d, 1H, J=2.5 Hz), 8.73 (d, 1H, J=2.5 Hz).

reactant | sodium | 0.11 g | [Na] | Na
reactant | guanidine hydrochloride | 0.45 g | Cl.NC(=N)N
reactant | methyl 5-(4-tert.-butoxycarbonylphenyl)ethynyl-2-chloro-3-pyridinecarboxylate | 0.35 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C#CC=1C=C(C(=NC1)Cl)C(=O)OC | C20H18ClNO4
solvent | tert.-butanol | 30 ml | C(C)(C)(C)O | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4-hydroxy-6-(4-tert.-butoxycarbonylphenylethynyl)pyrido[2,3-d]pyrimidine | 0.15 g, 44% | NC=1N=C(C2=C(N1)N=CC(=C2)C#CC2=CC=C(C=C2)C(=O)OC(C)(C)C)O | C20H18N4O3
